US07090953B2
Phenylhydrazine (0.2 mole, commercially available from Aldrich, Milwaukee, Wis.) and N-ethyl-3,6-diformylcarbazole (0.1 mole) were dissolved in 100 ml of a 1:1 v/v mixture of toluene and THF in 250 ml 3-neck round bottom flask equipped with a reflux condenser and a mechanical stirrer. The solution was refluxed for 2 hours. Thin layer chromatography indicated the disappearance of the starting materials. At the end of the reaction, the mixture was cooled to room temperature. The N-ethyl-3,6-diformylcarbazole bis(N-phenylhydrazone) crystals formed upon standing were filtered off, washed with isopropanol and dried in a vacuum oven at 50° C. for 6 hours. Without further purification, the product was used for the next step.

reactant | Phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | N-ethyl-3,6-diformylcarbazole | 0.1 mole | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C16H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | N-ethyl-3,6-diformylcarbazole bis(N-phenylhydrazone) | C1(=CC=CC=C1)NN=CC=1C=C2C=3C=C(C=CC3N(C2=CC1)CC)C=NNC1=CC=CC=C1 | C28H25N5
